US06054410
isocarbamid
methazole, oxadiargyl, oxadiazon

reactant | methazole | CN1C(=O)N(OC1=O)C2=CC(=C(C=C2)Cl)Cl | C9H6Cl2N2O3
reactant | oxadiargyl | CC(C)(C)C1=NN(C(=O)O1)C=2C=C(C(=CC2Cl)Cl)OCC#N | C14H13Cl2N3O3
reactant | oxadiazon | CC(C)OC=1C=C(C(=CC1Cl)Cl)N2C(=O)OC(=N2)C(C)(C)C | C15H18Cl2N2O3
product | isocarbamid | CC(C)CNC(=O)N1CCNC1=O | C8H15N3O2
